US09238631B2
500 mg (1.04 mmol) (2S)-2-tert.-Butoxycarbonylamino-5-(4-hydroxy-benzyl)-hexanedioic acid di-tert.-butyl ester, 144 mg (1.04 mmol) potassium carbonate and 491 mg (1.04 mmol) [(4S,5S)-2,2-dimethyl-1,3-dioxolane-4,5-diyl]bis(methylene) bis(4-methylbenzenesulfonate) in 12 mL DMF were heated in a microwave at 100° C. for 2 h. Brine (300 mL) was added and the mixture was extracted with dichloromethane (3×100 mL). The combined organic fractions were dried over sodium sulfate and concentracted. The crude product was purified by Flash chromatography (Silica, 2-40% ethyl acetate in hexane) to afford 430 mg (52%) di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-(4-{[(4S,5S)-2,2-dimethyl-5-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,3-dioxolan-4-yl]methoxy}benzyl)hexanedioate.

reactant | (2S)-2-tert.-Butoxycarbonylamino-5-(4-hydroxy-benzyl)-hexanedioic acid di-tert.-butyl ester | 1.04 mmol, 500 mg | C(C)(C)(C)OC([C@H](CCC(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C26H41NO7
reactant | potassium carbonate | 1.04 mmol, 144 mg | C([O-])([O-])=O.[K+].[K+]
reactant | [(4S,5S)-2,2-dimethyl-1,3-dioxolane-4,5-diyl]bis(methylene) bis(4-methylbenzenesulfonate) | 1.04 mmol, 491 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC(O[C@H]1COS(=O)(=O)C1=CC=C(C=C1)C)(C)C | C21H26O8S2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | Brine | 300 mL | [Cl-].[Na+].O
product | di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-(4-{[(4S,5S)-2,2-dimethyl-5-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,3-dioxolan-4-yl]methoxy}benzyl)hexanedioate | 430 mg, 52% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC(C)(C)C)CCC(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OC[C@@H]1OC(O[C@H]1COS(=O)(=O)C1=CC=C(C=C1)C)(C)C | C40H59NO12S
